US07932389B2
Step b) Formation of ethyl rel-(2S,3aS,7aR)-6-(3-methylbutanoyl)octahydro-1H-pyrrolo[2,3-c]pyridine-2-carboxylate (Compound of Formula IIa wherein R11 is ethyl, R3, R4, R6, R13 are H and R14 is 3-methylbutanoyl)
A solution was made of 1-tert-butyl 2-ethyl rel-(2S,3aS,7aR)-6-(3-methyl butanoyl)octahydro-1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate obtained under step a) (0.335 mmol) in DCM (2.5 mL), to which TFA (2.5 mL) was added. The reaction was left to stir for 1 hour after which time it was checked by TLC (60% EtOAc in heptanes). If the reaction had not gone to completion after this time it was left stirring and checked after every additional ½. Generally this took 2 hours. When the reaction had gone to completion the TFA/DCM was removed in vacuo before being placed on a high vacuum line for 2 hours. The product was used in the next step with no further purification.

reactant | 1-tert-butyl 2-ethyl rel-(2S,3aS,7aR)-6-(3-methyl butanoyl)octahydro-1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate | CC(CC(=O)N1C[C@H]2[C@@H](CC1)C[C@H](N2C(=O)OC(C)(C)C)C(=O)OCC)C | C20H34N2O5
reactant | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | ethyl rel-(2S,3aS,7aR)-6-(3-methylbutanoyl)octahydro-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | CC(CC(=O)N1C[C@H]2[C@@H](CC1)C[C@H](N2)C(=O)OCC)C | C15H26N2O3
